US04925879
1-(3,4-Dichlorophenyl)cyclobutanecarbonitrile (8 g) was added to the Grignard reagent prepared by the reaction under argon of 2-(3-bromopropyl)-5-methylfuran (10 g) and magnesium (1.1 g) in ether (20 ml). The mixture was stirred for 16 hours at ambient temperature. A suspension of sodium borohydride (3 g) in propan-2-ol (100 ml) was added and the mixture heated under reflux for 4.75 hours and then allowed to cool. The mixture was added to water with cooling and excess 2N hydrochloric acid added. The aqueous acid layer was extracted with ether and the extract washed with 1N aqueous sodium hydroxide solution, dried and evaporated to yield 1-[1-(3,4-dichlorophenyl)cyclobutyl]-4-(5-methyl-2-furyl)butylamine.

reactant | 1-(3,4-Dichlorophenyl)cyclobutanecarbonitrile | 8 g | ClC=1C=C(C=CC1Cl)C1(CCC1)C#N | C11H9Cl2N
reactant | 2-(3-bromopropyl)-5-methylfuran | 10 g | BrCCCC=1OC(=CC1)C | C8H11BrO
reactant | magnesium | 1.1 g | [Mg] | Mg
reactant | sodium borohydride | 3 g | [BH4-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | propan-2-ol | 100 ml | CC(C)O | C3H8O
solvent | water | O | H2O
product | 1-[1-(3,4-dichlorophenyl)cyclobutyl]-4-(5-methyl-2-furyl)butylamine | ClC=1C=C(C=CC1Cl)C1(CCC1)C(CCCC=1OC(=CC1)C)N | C19H23Cl2NO
